US07571894B2
4.4 equivalents of 3-chlorophenylboronic acid, 10 equivalents of sodium carbonate in a 2 mol/L aqueous solution, and 0.12 equivalents of tetrakis(triphenylphosphine)palladium (0) were added to one equivalent of 1,3,6,8-tetrabromopyrene obtained in the same way as for EXAMPLE 1, and the mixture was subjected to heating under refluxing to allow reaction for three hours, using benzene as a solvent. 1,3,6,8-tetra(3-chlorophenyl)pyrene was obtained after deposition and purification through recrystallization of the product.

reactant | 3-chlorophenylboronic acid | 4.4 equivalents | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 10 equivalents | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,3,6,8-tetrabromopyrene | one equivalent | BrC1=CC(=C2C=CC3=C(C=C(C4=CC=C1C2=C34)Br)Br)Br | C16H6Br4
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium | 0.12 equivalents | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,3,6,8-tetra(3-chlorophenyl)pyrene | ClC=1C=C(C=CC1)C1=CC(=C2C=CC3=C(C=C(C4=CC=C1C2=C34)C3=CC(=CC=C3)Cl)C3=CC(=CC=C3)Cl)C3=CC(=CC=C3)Cl | C40H22Cl4
